US08426411B2
To a solution of ethyl 2-((1S,3R,4S)-3-ethyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)acetate (0.100 g, 0.293 mmol) in toluene (0.20 mL) and MeOH (0.20 mL) was added (Z)-N′-hydroxy-2-methoxyacetimidamide (0.300 g, 2.89 mmol, Tyger) and K2CO3 (0.100 g, 0.726 mmol). The solution was heated in a CEM microwave at about 130° C. for about 1 h (250 psi maximum pressure, 1 min ramp, 300 max watts). The solvent was removed under reduced pressure. The residue was diluted with DCM (3 mL) and a small amount of MeOH. The crude material was purified by flash chromatography on silica gel eluting with a gradient of 0-10% MeOH in DCM. The residue was dissolved in EtOAc and heptane was added. The solvent was concd. The solid was dried in a heated vacuum oven (about 70° C.) for about 20 h to afford 5-(((1S,3R,4S)-3-ethyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)methyl)-3-(methoxymethyl)-1,2,4-oxadiazole (0.062 g, 56%) as a white solid: LC/MS (Table 1, Method a) Rt=1.79 min; MS m/z: 382 (M+H)+.

reactant | ethyl 2-((1S,3R,4S)-3-ethyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)acetate | 0.293 mmol, 0.100 g | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)NC=C1)CC(=O)OCC | C18H23N5O2
reactant | (Z)-N′-hydroxy-2-methoxyacetimidamide | 2.89 mmol, 0.300 g | O\N=C(\COC)/N | C3H8N2O2
reactant | K2CO3 | 0.726 mmol, 0.100 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 0.20 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 0.20 mL | CO | CH4O
product | 5-(((1S,3R,4S)-3-ethyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)methyl)-3-(methoxymethyl)-1,2,4-oxadiazole | 0.062 g, 56% | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)NC=C1)CC1=NC(=NO1)COC | C19H23N7O2
